US07906517B2
3-Hydroxymethyl-5-trifluoromethyl-benzonitrile (23.4 g) is dissolved in methylene chloride (230 mL) and thereto is added carbon tetrabromide (42.4 g), followed by an addition of triphenylphosphine (32.0 g) under ice-cooling and the mixture is stirred at the same temperature for 30 minutes. The reaction solution is concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to give 3-bromo-methyl-5-trifluoromethyl-benzonitrile (25.5 g). NMR (CDCl3): 4.51 (2H, s), 7.86 (1H, s), 7.88 (2H, s)

reactant | 3-Hydroxymethyl-5-trifluoromethyl-benzonitrile | 23.4 g | OCC=1C=C(C#N)C=C(C1)C(F)(F)F | C9H6F3NO
reactant | carbon tetrabromide | 42.4 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 32.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 230 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-methyl-5-trifluoromethyl-benzonitrile | 25.5 g | BrC=1C(=C(C#N)C=C(C1)C(F)(F)F)C | C9H5BrF3N
